US05246929
To a solution of 3-(4-chlorophenyl)-1H-naphtho[2,1-b][1,4]thiazin-2(3H)-one (38.45 g) and sodium borohydride (22.32 g) in tetrahydrofuran (1.0 liter) is added dropwise with stirring boron trifluoride etherate complex (100 ml) at room temperature, and the mixture is refluxed for 2 hours. After cooling, to the mixture are added methanol (200 ml), 10% hydrochloric acid (300 ml) and conc. hydrochloric acid (150 ml) in this order and the mixture is further refluxed for 4 hours. To the reaction mixture is added ice water and the mixture is made alkaline with potassium carbonate and extracted with ethyl acetate. The ethyl acetate layer is washed, dried and distilled to remove the solvent. The residue is recrystallized from tetrahydrofuran-n-hexane to give 3-(4-chlorophenyl)-2,3-dihydro-1H-naphtho[2,1-b][1,4]thiazine (32.3 g, yield 88%) as crystals.

reactant | 3-(4-chlorophenyl)-1H-naphtho[2,1-b][1,4]thiazin-2(3H)-one | 38.45 g | ClC1=CC=C(C=C1)C1C(NC2=C(S1)C=CC1=CC=CC=C12)=O | C18H12ClNOS
reactant | sodium borohydride | 22.32 g | [BH4-].[Na+]
reactant | hydrochloric acid | 300 ml | Cl | ClH
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 1.0 liter | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
product | 3-(4-chlorophenyl)-2,3-dihydro-1H-naphtho[2,1-b][1,4]thiazine | 32.3 g, yield 88% | ClC1=CC=C(C=C1)C1CNC2=C(S1)C=CC1=CC=CC=C12 | C18H14ClNS
